US06156752
A. 4-Benzyl-1-(2-pyrrolidino-1-oxoethyl)piperazine
To a stirred solution of 1-benzylpiperazine (500 mg, 2.84 mmol) and Et3N (1.2 ml, 8.52 mmol) in CH2Cl2 (15 ml) was dropwise added 2-chloroacetyl chloride via syringe at -78° C. After stirred at -78° C. for 1 h, pyrrolidine (0.24 ml, 2.84 mmol) was then added into the stirred reaction mixture at -78° C. The reaction mixture was then stirred at room temperature for 22 h, then diluted with CH2Cl2 (100 ml), the reaction mixture was washed with aq. Na2CO3 (15 ml), brine, then dried (MgSO4) and concentrated in vacuo. Flash chromatography of the residue (Fuji NH-silica gel 200-300 mesh 20 g, eluent solvents: hexane:AcOEt=1:1, 1:2, 1:5, to CH2Cl2 :MeOH=200:1, 100:1, 10:1) gave a yellow oil (651 mg, 20% yield).

reactant | 1-benzylpiperazine | 2.84 mmol, 500 mg | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | Et3N | 8.52 mmol, 1.2 ml | CCN(CC)CC | C6H15N
reactant | 2-chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | pyrrolidine | 2.84 mmol, 0.24 ml | N1CCCC1 | C4H9N
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 4-Benzyl-1-(2-pyrrolidino-1-oxoethyl)piperazine | 651 mg, 20% yield | C(C1=CC=CC=C1)N1CCN(CC1)C(CN1CCCC1)=O | C17H25N3O
